US06436923B1
A. N-[2-(3-Methoxyphenyl)ethyl]-2-[4-(phenylmethoxy)phenyl]acetamide
To a solution of 4-benzyloxyphenylacetic acid (4.85 g 20 mmol) in dimethylformamide (30 mL) under nitrogen was added 1,3-diisopropylcarbodiimide. After 2 hours, to the solution was added 2-(3-methoxyphenyl)ethylamine (3.02 g, 20 mmol) and stirred at room temperature for 20 hours. The reaction was quenched with a saturated sodium carbonate solution and extracted with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was then purified by chromatography (SiO2, 30-70% ethyl acetate/hexane) to provide the title compound (5.74 g, 76% yield): 1H NMR (CDCl3) 7.38 (m, 5H), 7.14 (t, 1H), 7.07 (d, 2H), 6.91 (d, 2H), 6.74 (dd, 1H), 6.62 (m, 2H), 5.37 (br, 1H), 5.06 (s, 2H), 3.77 (s, 3H), 3.47 (s, 2H), 3.44 (t, 2H), 2.70 (t, 2H); ES-MS (m/z) 376 [M+H]+.

reactant | 4-benzyloxyphenylacetic acid | 20 mmol, 4.85 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CC(=O)O | C15H14O3
reactant | 1,3-diisopropylcarbodiimide | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 2-(3-methoxyphenyl)ethylamine | 20 mmol, 3.02 g | COC=1C=C(C=CC1)CCN | C9H13NO
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | N-[2-(3-Methoxyphenyl)ethyl]-2-[4-(phenylmethoxy)phenyl]acetamide | 5.74 g, 76% yield | COC=1C=C(C=CC1)CCNC(CC1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C24H25NO3
